.include 5_NAND.sub
.include NOT.sub

.subckt 5_AND v w x y z out vdd gnd l=0.09u w_n=0.9u w_p=1.8u

xand5 v w x y z nand_out vdd gnd 5_NAND lambda={l} width_N={w_n} width_P={w_p}
xinv nand_out out vdd gnd NOT lambda={l} width_N={w_n} width_P={w_p}

.ends 5_AND