.subckt 3_NOR x y z out vdd gnd lambda=0.09u width_N=0.9u width_P=1.8u

M4 out x nodea vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M5 nodea y nodeb vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M6 nodeb z vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M1 out x gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M2 out y gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M3 out z gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

.ends 3_NOR